US08071779B2
N5-(1-Benzylpiperidin-3-yl)-1H-indazole-3,5-diamine, Compound 1.050
Reaction of tert-butyl 3,5-diamino-1H-indazole-1-carboxylate with 1-benzylpiperidin-3-one using the method of Example 8, with the modification that sodium cyanoborohydride was used as the reductant and methanol was used as the solvent, followed by deprotection using the method of Example 4 afforded the title compound.

reactant | tert-butyl 3,5-diamino-1H-indazole-1-carboxylate | NC1=NN(C2=CC=C(C=C12)N)C(=O)OC(C)(C)C | C12H16N4O2
reactant | 1-benzylpiperidin-3-one | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | N5-(1-Benzylpiperidin-3-yl)-1H-indazole-3,5-diamine | C(C1=CC=CC=C1)N1CC(CCC1)NC=1C=C2C(=NNC2=CC1)N | C19H23N5
